US03953430
Preparation of 9-Benzyl-4,9-dihydro-4-methyl-10H-thieno[3,4-b][1,5]benzodiazepin-10-one
A mixture of 0.35 g. of 4,9-dihydro-4-methyl-10H-thieno[3,4-b] [1,5]benzodiazepin-10-one, 65 mg. of 57% sodium hydride-mineral oil dispersion and 0.3 ml. of benzylbromide in 10 ml. of dimethylformamide is stirred at room temperature for 3 hours, quenched by dropwise addition of water, diluted with 100 ml. of water and extracted several times with chloroform. The chloroform solution is dried over magnesium sulfate and concentrated under reduced pressure to give a yellow oil which is chromatographed on silica gel with benzene-methanol (19:1) to give an oil which crystallizes on trituration with acetonitrile. Recrystallization from methanol-water gives off-white crystals, m.p. 137°-138.5°C.

reactant | 4,9-dihydro-4-methyl-10H-thieno[3,4-b] [1,5]benzodiazepin-10-one | CN1C=2C(C(NC3=C1C=CC=C3)=O)=CSC2 | C12H10N2OS
reactant | sodium hydride | [H-].[Na+]
reactant | benzylbromide | C(C1=CC=CC=C1)Br | C7H7Br
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 9-Benzyl-4,9-dihydro-4-methyl-10H-thieno[3,4-b][1,5]benzodiazepin-10-one | C(C1=CC=CC=C1)N1C(C=2C(N(C3=C1C=CC=C3)C)=CSC2)=O | C19H16N2OS
